US06958353B2
Synthesis of 4-(2-[(5,6-diphenyl-2-pyrazinyl)oxy]ethoxy)benzaldehyde
To a mixture containing 5,6-diphenyl-2-pyrazinol (2.45 g), 4-[2-(methanesulfonyloxy)ethoxy]benzaldehyde (2.44 g), and potassium carbonate (1.8 g), dimethylformamide (100 mL) was added. The resultant mixture was heated at 100° C. on an oil bath for two hours under stirring, and the reaction mixture was poured into an ice-water mixture. The thus-formed organic matter was separated through extraction by use of ethyl acetate, followed by washing sequentially with water and saturated saline. The washed product was dried over sodium sulfate anhydrate, and the residual solvent was removed through distillation under reduced pressure. The thus-yielded residue was purified by means of a silica gel column and crystallized from n-hexane, to thereby yield 3.34 g of the title compound (yield 85.4%).

reactant | 5,6-diphenyl-2-pyrazinol | 2.45 g | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)O | C16H12N2O
reactant | 4-[2-(methanesulfonyloxy)ethoxy]benzaldehyde | 2.44 g | CS(=O)(=O)OCCOC1=CC=C(C=O)C=C1 | C10H12O5S
reactant | potassium carbonate | 1.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-(2-[(5,6-diphenyl-2-pyrazinyl)oxy]ethoxy)benzaldehyde | yield 3.34 g, yield 85.4% | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)OCCOC1=CC=C(C=O)C=C1 | C25H20N2O3
